US05723479
Boron tribromide (24.9 g) was added dropwise to a solution of methyl 6-methoxybenzofuran-2-carboxylate (18.6 g) in dichloromethane (200 ml) at 0° C., followed by stirring at room temperature for 1 day. The reaction mixture was poured over ice water; ethyl acetate (300 ml) was added. After the organic layer was washed with water and dried (MgSO4), the solvent was distilled off; 10% hydrochloric acid-methanol (60 ml) was added to the residue, followed by heating at 70° to 80° C. for 5 hours. The reaction mixture was concentrated under reduced pressure; the resulting crystals of methyl 6-hydroxybenzofuran-2-carboxylate (10.75 g) were collected by filtration using diethyl ether-isopropyl ether (2:1, v/v). The filtrate was concentrated; the residue was subjected to silica gel column chromatography. From the fraction eluted with diethyl ether-hexane (1:2, v/v), methyl 6-hydroxybenzofuran-2-carboxylate (1.75 g) was obtained (total yield 73%), which was then recrystallized from diethyl ether-isopropyl ether to yield colorless prisms having a melting point of 176° to 177° C.

reactant | Boron tribromide | 24.9 g | B(Br)(Br)Br | BBr3
reactant | methyl 6-methoxybenzofuran-2-carboxylate | 18.6 g | COC1=CC2=C(C=C(O2)C(=O)OC)C=C1 | C11H10O4
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | methyl 6-hydroxybenzofuran-2-carboxylate | 1.75 g, yield 73% | OC1=CC2=C(C=C(O2)C(=O)OC)C=C1 | C10H8O4
